US05001113
Treatment of valinol in basic ethanol with chloroacetyl chloride using the procedure of Surry, et. al., J. Am. Chem. Soc. (1955) 77, 633, gives 5-(2-propyl)-3-morpholinone. Deprotonation of the latter with NaH in DMF solution and reaction with methyl iodide gives the title compound.

reactant | valinol | N[C@@H](C(C)C)CO | C5H13NO
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
solvent | ethanol | C(C)O | C2H6O
product | 5-(2-propyl)-3-morpholinone | CC(C)C1COCC(N1)=O | C7H13NO2
